US09110069B2
2-carboxymethylsulfanyl-3-phenylimino-1-propenyl(phenyl)ammonium bromide
A mixture of 560 mg (1.85 mmol) of 2-mercaptoacetic acid and 345 mg (4.1 mmol) of NaHCO3 in 3 mL water was heated with stirring at 60° C. for 1 h. Then a solution of 573 mg (1.5 mmol) of 2-bromo-3-phenylimino-1-propenyl(phenyl)ammonium bromide (synthesized as described in EP1221465A1) in 20 mL of methanol was added at 60° C., the mixture was stirred at this temperature for 5 h, cooled to RT, poured into a mixture of 50 g of ice and 1 mL of concentrated hydrochloric acid. The obtained yellow precipitate was filtered and dried.

reactant | 2-mercaptoacetic acid | 1.85 mmol, 560 mg | SCC(=O)O | C2H4O2S
reactant | NaHCO3 | 4.1 mmol, 345 mg | C(=O)(O)[O-].[Na+]
reactant | 2-bromo-3-phenylimino-1-propenyl(phenyl)ammonium bromide | 1.5 mmol, 573 mg | [Br-].BrC(=C[NH2+]C1=CC=CC=C1)C=NC1=CC=CC=C1
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | water | 3 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | 2-carboxymethylsulfanyl-3-phenylimino-1-propenyl(phenyl)ammonium bromide | [Br-].C(=O)(O)CSC(=C[NH2+]C1=CC=CC=C1)C=NC1=CC=CC=C1 | InChI=1S/C17H16N2O2S.BrH/c20-17(21)13-22-16(11-18-14-7-3-1-4-8-14)12-19-15-9-5-2-6-10-15;/h1-12,18H,13H2,(H,20,21);1H
